US08486939B2
A mixture of 0.475 g (3.08 mmol) of 4-methoxy-3-nitropyridine (Org. Process Res. Dev. 2004, 8, 903-908) and 0.301 g (2.84 mmol) of 10% palladium on carbon in ethanol (30 mL) was stirred under an atmosphere of hydrogen for 48 hrs. The catalyst was removed by filtration through a pad of celite, and the solvent was removed to give 0.380 mg (99%) of 3-amino-4-methoxypyridine as a pink powder, which was used in the next step without further purification: 1H NMR (DMSO-d6) δ8.09 (dd, J=6.4, 1.2 Hz, 1H), 7.93 (d, J=1.2 Hz, 1H), 7.36 (d, J=6.4 Hz, 1H), 6.01 (br s, 2H), 4.06 (s, 3H).

reactant | 4-methoxy-3-nitropyridine | 3.08 mmol, 0.475 g | COC1=C(C=NC=C1)[N+](=O)[O-] | C6H6N2O3
catalyst | palladium on carbon | 2.84 mmol, 0.301 g | [Pd] | Pd
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 3-amino-4-methoxypyridine | 0.380 mg, 99% | NC=1C=NC=CC1OC | C6H8N2O
